data/mechanism_extracts/Angew/10.1002_anie.200705748.json
{"doi": "10.1002_anie.200705748", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electroinitiated cation chain reaction forming intramolecular C-C bond between thioacetal and pendant olefin to give tetrahydropyrans bearing an ArS group", "mechanism_family": ["cation_initiated", "mediator_anodic", "carbocation"], "electrochemical_role": "Anodic oxidation of ArSSAr generates ArS(ArSSAr)+ (an 'ArS+' equivalent) that activates the thioacetal; only a catalytic amount of electricity is required because ArS+ is regenerated in the chain", "key_intermediates": [{"name": "ArS(ArSSAr)+ (electrochemically generated 'ArS+' equivalent)", "smiles": null, "role": "reactive"}, {"name": "Alkoxycarbenium ion 9 from thioacetal 6 after ArS+ abstraction of ArS", "smiles": null, "role": "reactive"}, {"name": "Cyclized carbocation 10 (tetrahydropyranyl cation after intramolecular olefin addition)", "smiles": null, "role": "transient"}, {"name": "ArSSAr (disulfide, regenerated nucleophile/mediator)", "smiles": null, "role": "resting_state"}, {"name": "Product 8 (cis-tetrahydropyran with ArS group)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes ArSSAr to an 'ArS+' equivalent [ArS(ArSSAr)+]; ArS+ abstracts ArS from thioacetal 6 to give alkoxycarbenium 9, which cyclizes onto the pendant olefin to give cation 10; ArSSAr traps 10 to deliver product 8 and regenerate ArS+, propagating the chain.", "rate_determining_step": "Intramolecular addition of the alkoxycarbenium ion to the olefin (cyclization of 9 to 10), made feasible by intramolecularization; the trapping of 10 by ArSSAr is concerted-like and accelerated by excess ArSSAr", "probe_reagents": [{"name": "Bu4NBF4 supporting electrolyte (fluoride source probe)", "smiles": null, "purpose": "intermediate_trap", "observation": "Fluoride from BF4- attacks cyclized cation giving fluorinated product 7a (81%), proving a free cation intermediate"}, {"name": "Bu4NB(C6F5)4 (non-nucleophilic electrolyte)", "smiles": null, "purpose": "other", "observation": "Suppresses fluoride attack; ArSSAr instead traps the cyclized cation giving 8a (72-82%), confirming ArSSAr as nucleophile in the chain"}, {"name": "Substoichiometric ArS(ArSSAr)+ (20 mol%, 2 mol%)", "smiles": null, "purpose": "other", "observation": "Catalytic loading still produces 8a (33-47%), consistent with a chain mechanism; excess ArSSAr boosts yield to 82%"}, {"name": "CSI-MS / 1H NMR of ArS(ArSSAr)+B(C6F5)4-", "smiles": null, "purpose": "intermediate_trap", "observation": "Direct spectroscopic detection (HRMS m/z 381.0084) of the cationic ArS+ carrier"}], "evidence_types_used": ["intermediate_trap_other", "stoichiometric_intermediate", "isolation_of_intermediate", "kinetic_order", "other"], "evidence_strength": "medium", "notes": "Exclusive cis-selectivity in 8 (except 8b) suggests that cyclization of 9 to 10 and trapping by ArSSAr occur in a somewhat concerted manner rather than via a fully free, equilibrated cation 10. In-cell (direct) electrolysis (method B) also initiates the chain effectively. The reaction of alkoxycarbenium with a non-stabilized olefin is proposed as the potential bottleneck, rescued by intramolecularity."}
